Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
choked on cough drop, cough and URI symptoms
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with pmhx of PAF on coumadin, htn, ___, s/p lung 
resection for CA, anxiety and DM, type 2 was laying in bed 
supine last night and choked on cough drop, she felt anxious and 
called EMS and went to ___. She was thought to be in 
heart failure and given IV lasix and nitro patch and was 
transferred to ___.
.
On arrival to ED, 97.8 83 180/54 100% on 2L --> 94% on RA. She 
was noted to have bibasilar crackles and CXR shows volume 
overload as well as possible bilateral lower lobe infiltrates. 
Leukocytosis with left shift. Remains afebrile. Levofloxacin 
750mg x1. 
.
On arrival to floor she states "I don't feel sick". She endorses 
~2day hx of cough productive of whitish, tan sputum, with dry 
throat, rhinorrhea and hoarse voice. Denies fevers or chills. 
Last night she 
felt mildly SOB while at ___. Possibly some 
decreased PO intake over the last day. Had mild diarrhea 
yesterday that is now resolved and mild nausea in ER. No 
vomiting, constipation. Reports frequent epistaxis ___ coumadin 
use. Denies dysuria, frequency. Denies myalgias although reports 
chronic bony pain from Pagets. 
.
Reports stable 2 pillow orthopnea, no PND, stable ___ edema. Had 
5 lb weight gain from baseline 168lb to 173lb 3 days ago and 
took extra dose of lasix.  Has occasional chest tightness for 
which she takes nitro ___ weekly but has not required any 
recently. 

 
Past Medical History:
- Paget's disease - The patient follows with Dr. ___ at ___. 
She provides the patient IV zoledronic acid therapy.
- CRI, ___ Cr. 1.2-1.4  
- Paroxysmal atrial fibrillation - on coumadin
- CAD ___ MIBI: Mild reversible anterolateral and 
inferolateral 
defect, new in comparison to ___ exam) 
- diastolic CHF (EF 70%)
- moderate AS ___ ___ 1.0-1.2cm2, peak/mean gradient ___ 
mmHG)
- pulmonary htn ___ TR gradient 60 to 68 mm Hg + RA pressure)
- diabetes mellitus
- Dyslipidemia ___ TC 151, LDL 91, HDL 42)
- hypertension
- anxiety
- history of thyroid nodule
- diverticulitis
- Left lung adenocarcinoma with unknown primary but possible 
colonic s/p resection of left lung in ___
- h/o TIAs x2
- h/o CVA
- recurrent UTI's
- s/p fall with left finger fracture requiring rod placement - 
___
- h/o C. difficile - ___

PAST SURGICAL HISTORY:
- s/p cholecystectomy
- s/p inguinal hernia repair
- s/p bilateral leg vein stripping
- s/p resection of left lung mass, adenocarcinomna likely colon 
primary but primary never found
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
VITAL SIGNS:
T=97.2 BP=162/64 HR=96 RR=20 O2=96% on 2L, 93% on RA
.
.
PHYSICAL EXAM
GENERAL: Very pleasant, well appearing elderly female in NAD
HEENT: No conjunctival pallor. PERRLA/EOMI. MMM. OP clear. No 
LAD
CARDIAC: RRR. Normal S1, S2. ___ crescendo decrescendo murmur at 
LUSB c/w AS.  JVP=10cm
LUNGS: Bibasilar crackles, good air movement. No resp distress
ABDOMEN: NABS. Soft, NT, ND.  
EXTREMITIES: Asymmetry of lower extremity noted with R>L. No ttp 
of calves. 1+ pitting edema to knees bilaterally. 5cm x5cm area 
of edema on dorsum of right foot.
SKIN: No rashes/lesions, ecchymoses. 
NEURO: A&Ox3. Appropriate. Gait assessment deferred
PSYCH: Listens and responds to questions appropriately, 
pleasant. Non-anxious appearing

 
Pertinent Results:
Admission labs:

___ 09:11AM BLOOD WBC-10.4 RBC-4.12* Hgb-10.7* Hct-33.5* 
MCV-81* MCH-25.9* MCHC-31.8 RDW-17.0* Plt ___
___ 09:11AM BLOOD ___
___ 09:11AM BLOOD Glucose-179* UreaN-24* Creat-1.2* Na-139 
K-4.5 Cl-101 HCO3-27 AnGap-16
___ 09:11AM BLOOD CK(CPK)-73
___ 09:11AM BLOOD cTropnT-0.08*
___ 09:11AM BLOOD Albumin-4.0 Calcium-10.3* Phos-3.7 Mg-2.1
___ 11:15AM BLOOD Lactate-2.3*
.
Urinalysis (___): 
Type Color ___ 
    Straw Clear 1.005 
Blood Nitrite Protein Glucose Ketone Bilirub Urobiln pH Leuks 
 NEG NEG NEG NEG NEG NEG NEG 5.0 MOD 
RBC WBC Bacteri Yeast Epi 
___ MOD NONE ___ 
.
Urine culture (___): 
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CEFUROXIME------------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN----------    32 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
.
Chest X-ray (___): The heart is enlarged. There are small 
bibasal effusions. There is also probable infiltrate in the 
lower lobes. There are multilevel degenerative changes present 
in the thoracic spine. The 
bones overall are osteopenic. 
.
Video swallow: report pending
.
Discharge labs:

___ 06:33AM BLOOD WBC-7.9 RBC-3.69* Hgb-9.9* Hct-29.5* 
MCV-80* MCH-26.8* MCHC-33.5 RDW-16.7* Plt ___
___ 08:55AM BLOOD ___
___ 06:33AM BLOOD Glucose-111* UreaN-27* Creat-1.3* Na-139 
K-3.7 Cl-99 HCO3-31 AnGap-___SSESSMENT AND PLAN: ___ yo female with hx of PAF, htn, dCHF, s/p 
lung resection for CA, anxiety and diabetes presents with 
bilateral pneumonia and heart failure exacerbation
.
#. Pneumonia: Patient presented with some URI symptoms and 
slightly productive cough and was found to have bibasilar 
opacities on chest X-ray consistent with pneumonia. Oxygen 
saturations were slightly lower than baseline, but she was never 
oxygen dependent. She was treated with a 7 day course of 
levofloxacin (renally dosed) for community-acquired pneumonia. 
At discharge she was advised to monitor closely for diarrhea 
given recent hx of C. Diff. Given the history of choking on 
cough drop and medications at home, she was evaluated with a 
speech and swallow to look for evidence of aspiration. While 
there was evidence of aspiration on bedside swallow eval, a 
follow-up video swallow was negative for aspiration and she was 
discharged home with nor restrictions/aspiration precautions
.
#. CHF, diastolic: Patient with evidence of volume overload by 
admission exam and on chest X-ray. She also gives history of 
recent weight gain at home. Received 20mg IV lasix at OSH with 
slightly improvement in her chest X-ray. She received BID IV 
lasix while inpatient with improvement of her volume status. She 
will resume regular dose of lasix at discharge.
.
#. UTI: Patient has history of recurrent asymptomatic UTI's at 
home. U/A on admission with pyuria, bacturia and mod ___. Looking 
back at her records, she has persistent pyuria bacturia on all 
U/A', but never has organism cultured. Urine culture sent from 
Foley and grew greater than 100K CFU of E coli. She was 
continued on levofloxacin for a 7 day course.
.
#. Diabetes Mellitus: On oral hypoglycemic at home but this was 
held while in hospital. Blood sugars in 100's which were managed 
with sliding scale insulin regimen.
.
#. CAD: Stable. No evidence of active ischemia and no episode of 
chest pain during admission. Has stable angina requiring nitro 
___ times weekly and a known fixed defect for which she does not 
want intervention. She was continued on ASA, statin, BB, Imdur.
.
#. Hypertension: Remained well- controlled on home regimen of 
amlodipine 5mg, hydralazine 37.5mg TID, imdur 90mg qhs, 
metoprolol 100mg BID with systolics in 120's-130's. 
.
#. PAF: Patient remained in sinus rhythm (bradycardia) with 
metoprolol and disopyramide. She remained therapeutic on 
coumadin. INR carefully monitored when quinolones were initiated 
and coumadin dose was reduced to 1mg until she can follow-up in 
___ clinic on ___. INR at discharge 
was 2.1
.
#. CRI: Pt with chronic renal insufficiency likely ___ diabetes 
and hypertension with baseline creatinine of 1.2-1.4. Creatinine 
remained stable in 1.2-1.4 range during admission
.
#. Hyperlipidemia:She was continued on statin
.
#. Anemia: Patient with history of prior malignancy with 
probable colonic primary therefore relatively new iron 
deficiency anemia was concerning for possible recurrence. This 
is was discussed with patient and outpatient provider about 
whether to pursue further work-up such as outpatient colonoscopy 
and this was deferred by patient and her family. Stools were 
guaiac negative. She was continued on iron supplementation with 
bowel regimen to prevent constipation and tolerated this well.
.
#. Pagets: Stable. Managed with zoledronic acid as outpatient
.
#. Hypercalcemia: Calcium was elevated to 10.3 on admission 
likely from Paget's disease
 
Medications on Admission:
- amlodipine 5mg qhs
- disopyramide 100mg q12h
- lasix 40mg daily
- glipizide 5mg daily
- hydralazine 37.5mg TID
- isosorbide mononitrate 90mg qhs
- metoprolol tartrate 100mg BID
- mirtazapine 30mg daily
- nitro 0.4mg prn
- simvastatin 20mg daily
- coumadin 2mg daily
- ASA 81mg daily
- Calcium carbonate 
- colace 100mg BID
- senna 3tabs EOD
- Vitamin D 800U daily
- ferrous sulfate 325mg daily
- MVI
 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. Disopyramide 100 mg Capsule Sig: One (1) Capsule PO Q12H 
(every 12 hours).  
3. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Glipizide 5 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  
5. Hydralazine 25 mg Tablet Sig: 1.5 Tablets PO TID (3 times a 
day).  
6. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: Three (3) Tablet Sustained Release 24 hr PO QHS (once a day 
(at bedtime)).  
7. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
8. Mirtazapine 30 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
9. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

10. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
12. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
14. Senna 8.6 mg Tablet Sig: Three (3) Tablet PO QOD ().  
15. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
16. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
18. Levofloxacin 750 mg Tablet Sig: One (1) Tablet PO Q48H 
(every 48 hours) for 1 days: Take one tablet on ___.
Disp:*1 Tablet(s)* Refills:*0*
19. Warfarin 2 mg Tablet Sig: One (1) Tablet PO as directed: 
Please take 2mg tablet on ___ then take a 2mg tablet on ___.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Bilateral Community Acquired Pneumonia
Acute Diastolic Congestive Heart Failure
Urinary Tract Infection
.
Secondary:
Diabetes Mellitus
Paroxysmal Atrial Fibrillation
Coronary Artery Disease
Pulmonary Hypertension
Chronic Kidney Disease
Aortic stenosis
Anxiety
Hypertension

 
Discharge Condition:
Hemodynamically stable and afebrile. Oxygen saturations in mid 
90's on room air. 

 
Discharge Instructions:
You were admitted to the hospital and found to have a pneumonia, 
urinary tract infection and heart failure. You were started on 
antibiotics to treat the infection. You were also given extra 
dose of lasix to remove some of the extra fluid. 
.
The following changes were made to your medications:
1) Levofloxacin 750mg every 48 hours for a total of 7 days - 
take one dose on ___ Please take coumadin 2mg on ___, then no coumadin on ___, 
then 2mg on ___
.
Please weigh yourself every morning, call MD if weight > 3 lbs 
as you may need to take an extra dose of lasix.
.
The antibiotics you are taking can lead to an infection called C 
Difficile that causes diarrhea. Plase return to the emergency 
department or call your PCP if you experience abdominal pain, 
diarrhea, nausea, vomiting, difficulty breathing or any other 
symptoms that are concerning to you. 
 
Followup Instructions:
___